US04560685
6-Chloro-4,7-dimorpholino-2-piperazino-pteridine
9.3 g (0.025 mol) of 2,6-dichloro-4,7-dimorpholino-pteridine were refluxed for one hour with 8.6 g (0.1 mol) of anhydrous piperazine in 200 ml of dioxane. The solvent was substantially distilled off, and the residue was digested with about 100 ml of water. After the aqueous mixture stood for a short time, it was suction-filtered, and the filter cake was washed with water and dried at about 70° C.

reactant | 2,6-dichloro-4,7-dimorpholino-pteridine | 0.025 mol, 9.3 g | ClC1=NC2=NC(=C(N=C2C(=N1)N1CCOCC1)Cl)N1CCOCC1 | C14H16Cl2N6O2
reactant | piperazine | 0.1 mol, 8.6 g | N1CCNCC1 | C4H10N2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 6-Chloro-4,7-dimorpholino-2-piperazino-pteridine | ClC=1N=C2C(=NC(=NC2=NC1N1CCOCC1)N1CCNCC1)N1CCOCC1 | C18H25ClN8O2
